US07868036B2
i) tert-Butyl 4-(2-hydroxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate
A solution of 15.40 g of tert-butyl 4-(2-benzyloxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate in 450 ml of tetrahydrofuran is hydrogenated at room temperature in the presence of 3.07 g of 10% Pd/C over 2 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.28 (1:2 EtOAc-heptane). Rt=4.58 (gradient I).

reactant | tert-butyl 4-(2-benzyloxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | 15.40 g | C(C1=CC=CC=C1)OCC(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C | C23H37NO4
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 3.07 g | [Pd] | Pd
product | tert-Butyl 4-(2-hydroxymethyl-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | OCC(CC1N(C(OC1)(C)C)C(=O)OC(C)(C)C)C(C)C | C16H31NO4
